US05679683
4-Chloro-9N-(2-N,N-dimethylamino)ethyl)indolo[2,3-d]pyrimidine. A suspension of 4-chloroindolo[2,3-d]pyrimidine hydrochloride (407 mg, 2 mmol), 2-N,N-diethylaminoethyl chloride hydrochloride (413 mg, 2.4 mmol), anhydrous cesium carbonate (1.95 g, 6 mmol) and 4 molecular sieves (1.5 g) in acetone (6 mL) are heated at reflux under a nitrogen atmosphere for 1.5 h. The mixture is filtered through celite, washing the filter cake with acetone (4×10 ml), followed by concentration of the filtrate under reduced pressure affording a viscous amber oil, which is dissolved in CH2Cl2, (20 ml), and washed with water (2×25 mL), dried (MgSO4), and the solvent is removed in vacuo. The crude product is chromatographed on silica, eluting with 4% methanol/chloroform to give 4-chloro-9N-(2-(N,N-diethylamino)ethyl)indolo[2,3-d]pyrimidine (495 mg, 82%), as a pale yellow oil. 1H NMR (DMSO) δ8.79 (1H, s), 8.41 (1H, d, J=8.0 Hz), 7.66-7.58 (2H, m), 7.46-7.42 (1H, m), 4.57 (2H, t, J=6.8 Hz), 2.90 (2H, t, J=7.1 Hz), 2.63 (4H, d, J=7.0 Hz), 0.99 (6H, t, J=7.0 Hz).

reactant | indolo[2,3-d]pyrimidine | N1=CN=CC2=C1NC1=CC=CC=C12 | C10H7N3
reactant | 4-chloroindolo[2,3-d]pyrimidine hydrochloride | 2 mmol, 407 mg | Cl.ClC=1C2=C(N=CN1)NC1=CC=CC=C12
reactant | cesium carbonate | 6 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetone | 6 mL | CC(=O)C | C3H6O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-9N-(2-(N,N-diethylamino)ethyl)indolo[2,3-d]pyrimidine | 495 mg, 82% | ClC=1C2=C(N=CN1)N(C1=CC=CC=C12)CCN(CC)CC | C16H19ClN4
